US07569600B2
To a solution of 5-(4,4-dimethyl-cyclohexyl)-3-[(cis-4-methanesulfonyloxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (2.56 g, 4.50 mmol) in 30 ml of DMF was added sodium azide (1.5 g, 23 mmol). The reaction mixture was stirred for 48 h at 50° C. The mixture was diluted with diethyl ether and washed 3 time with water and 1 time with brine. The organic layer was dried with sodium sulfate, filtered and concentrated under reduce pressure. The residue was purified by silica gel column chromatography (20% ethyl acetate/hexane to 100% ethyl acetate followed by 10% MeOH/CH2Cl2) to give 3-[(trans-4-Azido-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(4,4-dimethyl-cyclohexyl)-thiophene-2-carboxylic acid methyl ester (1.6 g, 69%).

reactant | 5-(4,4-dimethyl-cyclohexyl)-3-[(cis-4-methanesulfonyloxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 4.50 mmol, 2.56 g | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@@H](CC1)OS(=O)(=O)C)C1CCC(CC1)(C)C | C29H45NO6S2
reactant | sodium azide | 23 mmol, 1.5 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[(trans-4-Azido-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(4,4-dimethyl-cyclohexyl)-thiophene-2-carboxylic acid methyl ester | 1.6 g, 69% | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)N=[N+]=[N-])C1CCC(CC1)(C)C | C28H42N4O3S
